US09340556B2
A mixture of 3-acetyl-8-bromoquinolin-4(1H)-one (5.35 g, 20.11 mmol) and K2CO3 (9.17 g, 66.3 mmol) in dry N,N-dimethylformamide (100 mL) was heated at 90° C. for 30 min. After cooling to room temperature, iodomethane (3.77 mL, 60.3 mmol) was added and the mixture was stirred again at 90° C. for 2 h. Then the reaction mixture was concentrated and diluted with water (50 mL), extracted with dichloromethane (4×50 mL), dried over sodium sulfate and absorbed onto silica gel. Purification by automatic silica gel column chromatography (Combiflash RF) eluting with ethyl acetate/hexanes (10-100%) afforded 3-acetyl-8-bromo-1-methylquinolin-4(1H)-one (3.4 g, 12.14 mmol, 60.4% yield) as a brown solid. LCMS: (M+H)+: 279.9.

reactant | 3-acetyl-8-bromoquinolin-4(1H)-one | 20.11 mmol, 5.35 g | C(C)(=O)C1=CNC2=C(C=CC=C2C1=O)Br | C11H8BrNO2
reactant | K2CO3 | 66.3 mmol, 9.17 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 60.3 mmol, 3.77 mL | IC | CH3I
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 3-acetyl-8-bromo-1-methylquinolin-4(1H)-one | 12.14 mmol, 3.4 g, 60.4% yield | C(C)(=O)C1=CN(C2=C(C=CC=C2C1=O)Br)C | C12H10BrNO2
